US04617389
This compound was prepared by the procedure described in Example 1, except that the potassium carbonate was omitted. From 100 mg. of mitomycin A and 69 mg. of indoline was obtained 45 mg. (36% yield) of the desired product having a melting point of 127°-135° C. (decomposition) and providing the following analysis:

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
product | indoline | N1CCC2=CC=CC=C12 | C8H9N
